US04399143
3,3-Dimethyl-4-hydroxybutan-2-one (11.2 g) was dissolved in 50 ml of dimethyl sulfoxide, and nitrogen gas was passed therethrough for 20 minutes. Then, 18.2 g of 3-trifluoromethyl-6-chloropyridine and 15 g of anhydrous potassium carbonate were added thereto, and the solution was gradually heated to 115° C. and reacted under stirring for 4 hours at that temperature. After completion of the reaction, the product was put into ice water, extracted with methylene chloride, washed with water and dried over Glauber's salt. The solvent was distilled off to give 24.8 g of oily 3,3-dimethyl-4-(5-trifluoromethylpyridine-2-yloxy)butan-2-one.

reactant | 3,3-Dimethyl-4-hydroxybutan-2-one | 11.2 g | CC(C(C)=O)(CO)C | C6H12O2
reactant | 3-trifluoromethyl-6-chloropyridine | 18.2 g | FC(C=1C=NC(=CC1)Cl)(F)F | C6H3ClF3N
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 3,3-dimethyl-4-(5-trifluoromethylpyridine-2-yloxy)butan-2-one | 24.8 g | CC(C(C)=O)(COC1=NC=C(C=C1)C(F)(F)F)C | C12H14F3NO2
